US05334716
Sodium (317 mg) was dissolved in ethanol (30 ml), then 2-nitropropane (1.24 ml) was added. To the mixture 4-bromo-2-fluorobenzyl bromide (3.55 g) in ethanol (10 ml) was added. The reaction mixture was stirred at room temperature for 3 hours, and insoluble materials were filtered off. The filtrate was concentrated and the residue was dissolved in diethyl ether and water. The organic layer was washed with 1N sodium hydroxide and water, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel column eluting with a mixture of hexane and ethyl acetate (20:1) to give 4-bromo-2-fluorobenzaldehyde (2.28 g) as solid.

reactant | Sodium | 317 mg | [Na] | Na
reactant | 2-nitropropane | 1.24 ml | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | 4-bromo-2-fluorobenzyl bromide | 3.55 g | BrC1=CC(=C(CBr)C=C1)F | C7H5Br2F
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-bromo-2-fluorobenzaldehyde | 2.28 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
